US05298527
Preparation of methyl 2-methoxymethylphenylglyoxylate
500 ml of an ethereal 1 M zinc chloride solution was dripped into a Grignard solution prepared from 12.0 g (0.46 mol) of magnesium shavings and 99.5 g (0.5 mol) of 1-bromo-2-methoxymethylbenzene in 500 ml of THF. The mixture was then refluxed for 1 hours, and a solution of 61.2 g (0.5 mol) of oxalic acid methyl ester chloride in 100 ml of THF was dripped in at an internal temperature of (-10)°C. After the mixture had been heated to about 20° C. it was stirred for a further 20 hours and then hydrolyzed with saturated ammonium chloride solution. After extraction with ether the combined ether phases were washed with water, dried and evaporated down. There was obtained 60 g of product (57.7%) as a mobile liquid.

reactant | magnesium | 0.46 mol, 12.0 g | [Mg] | Mg
reactant | 1-bromo-2-methoxymethylbenzene | 0.5 mol, 99.5 g | BrC1=C(C=CC=C1)COC | C8H9BrO
reactant | oxalic acid methyl ester chloride | 0.5 mol, 61.2 g | [Cl-].COC(C(=O)O)=O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 1 M | [Cl-].[Zn+2].[Cl-]
product | methyl 2-methoxymethylphenylglyoxylate | 60 g, 57.7% | COCC1=C(C=CC=C1)C(C(=O)OC)=O | C11H12O4
